US04578392
To a solution of 50 g of 2-isopropylpyrazolo[1,5-a]pyridine in 300 ml of chloroform were added about 20 ml of bromine until the solution became faintly yellow under stirring and cooling to 5°-15° C. After the addition was completed, the mixture was stirred at room temperature for 30 minutes, then poured into aqueous 10% sodium bisulfite solution and extracted with chloroform. The chloroform layer was washed with aqueous 10% sodium hydroxide and then water, dried over anhydrous sodium sulfate, and concentrated in vacuo to give 75 g of crude 2-isopropyl-3-bromopyrazolo[1,5-a]pyridine, as colorless needles, mp 51°-52° C.

reactant | 2-isopropylpyrazolo[1,5-a]pyridine | 50 g | C(C)(C)C1=NN2C(C=CC=C2)=C1 | C10H12N2
reactant | bromine | about 20 ml | BrBr | Br2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-isopropyl-3-bromopyrazolo[1,5-a]pyridine | 75 g | C(C)(C)C1=NN2C(C=CC=C2)=C1Br | C10H11BrN2
